US04668686
A solution of 2,3-dimethyl-6-nitrobenzenemethanol (34.88 g, 0.192 mole) in dichloromethane (150 mL) was added to a stirred mixture of pyridinium chlorochromate (62.2 g, 0.288 mole) in dichloromethane (250 ml). The mixture was stirred vigorously for 4 hours, diluted with diethyl ether (500 mL) and the organic layer decanted. The residue was washed with diethyl ether (500 mL) and the combined organic solution filtered through a plug of silica gel (6"×11/2"). Evaporation of the solvent afforded 2,3-dimethyl-6-nitrobenzaldehyde (32.08 g, 93%). An analytical sample was prepared by crystallizing from diisopropyl ether and had m.p. 66°-68° C.

reactant | 2,3-dimethyl-6-nitrobenzenemethanol | 0.192 mole, 34.88 g | CC1=C(C(=CC=C1C)[N+](=O)[O-])CO | C9H11NO3
reactant | pyridinium chlorochromate | 0.288 mole, 62.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2,3-dimethyl-6-nitrobenzaldehyde | 32.08 g, 93% | CC1=C(C=O)C(=CC=C1C)[N+](=O)[O-] | C9H9NO3
